US06271411B1
Preparation of 2-phenyl-4,7-dimethyl-indene
20 ml of triethylamine, 2.88 g (20 mmole) of 4,7-dimethyl-indene, 4.08 g (20 mmole) of iodobenzene and 0.134 g (0.6 mmole) of Pd(OAc)2 were stirred under reflux for 12 h. After it all the triethylamine was removed under reduced pressure. The residue was treated with the mixture 50 ml of water and 50 ml of diethyl ether. Etherial layer was separated, washed twice with water, filtered and dried over Na2SO4. Ether was removed and some 20 ml of pentane were added to the reaction mixture. It was cooled down to −20° C. and product was crystallized as white crystals, which were filtered, washed with small portion of cold pentane and dried in vacuum. The yield of product was 38%.

reactant | 4,7-dimethyl-indene | 20 mmole, 2.88 g | CC1=C2C=CCC2=C(C=C1)C | C11H12
reactant | iodobenzene | 20 mmole, 4.08 g | IC1=CC=CC=C1 | C6H5I
catalyst | Pd(OAc)2 | 0.6 mmole, 0.134 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
product | 2-phenyl-4,7-dimethyl-indene | C1(=CC=CC=C1)C=1CC2=C(C=CC(=C2C1)C)C | C17H16
